US06444677B2
Dimethyl 4-(2,6-dichlorophenyl)-2-[2-[4-[[1-[[(methylsulfonyl)amino]methyl]cyclohexyl]methyl]-1-piperazinyl]-2-oxoethyl]-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate
A mixture of dimethyl 2-[2-[4-[[1-(aminomethyl)cyclohexyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6-dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate dihydrochloride (230 mg/0.28 mmol) methansulfonylchloride (0.2 ml/2.5 mmol) and triethylamine (0.5 ml/3.5 mmol) in dichloromethane (5.0 ml) was stirred for 5 hours at ambient temperature. The mixture was diluted with dichloromethane (50 ml), and then washed with water (10 ml) and brine (10 ml) successively. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel/200-350 mesh/20 g/dichloromethane) to give a yellow film (122 mg/55%).

reactant | dimethyl 2-[2-[4-[[1-(aminomethyl)cyclohexyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6-dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate dihydrochloride | 0.28 mmol, 230 mg | Cl.Cl.NCC1(CCCCC1)CN1CCN(CC1)C(CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CCC=1SC=CN1)=O
reactant | methansulfonylchloride | 2.5 mmol, 0.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.5 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Dimethyl 4-(2,6-dichlorophenyl)-2-[2-[4-[[1-[[(methylsulfonyl)amino]methyl]cyclohexyl]methyl]-1-piperazinyl]-2-oxoethyl]-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC=1SC=CN1)CC(=O)N1CCN(CC1)CC1(CCCCC1)CNS(=O)(=O)C)C(=O)OC | C35H45Cl2N5O7S2
